US04493843
A stirred mixture of 1-methylsulphinylheptadecan-2-one (10 g), water (100 ml), sodium metabisulphate (50 g) and dioxan (50 ml) was heated on a steam bath for 18 hours. The mixture was cooled to room temperature and extracted with diethyl ether (2×100 ml). The ether extract was dried over magnesium sulphate and was evaporated to give 1-methylthioheptadecan-2-one (5.7 g) as a white solid, m.p. 38°-40° C.

reactant | 1-methylsulphinylheptadecan-2-one | 10 g | CS(=O)CC(CCCCCCCCCCCCCCC)=O | C18H36O2S
reactant | water | 100 ml | O | H2O
reactant | sodium metabisulphate | 50 g | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 1-methylthioheptadecan-2-one | 5.7 g | CSCC(CCCCCCCCCCCCCCC)=O | C18H36OS
